US06329381B1
6-Amino-9-benzyl-8-bromo-2-butoxypurine
6-Amino-9-benzyl-2-butoxypurine (120 mg, 0.404 mmol) and bromine (0.5 ml) were dissolved in 50 ml of methylene chloride and the solution was stirred at room temperature for 5 hours. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated and dried on sodium sulfate and evaporated in vacuo to dryness. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (97 mg, yield 64%).

reactant | 6-Amino-9-benzyl-2-butoxypurine | 0.404 mmol, 120 mg | NC1=C2N=CN(C2=NC(=N1)OCCCC)CC1=CC=CC=C1 | C16H19N5O
reactant | bromine | 0.5 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-9-benzyl-8-bromo-2-butoxypurine | 97 mg, yield 64% | NC1=C2N=C(N(C2=NC(=N1)OCCCC)CC1=CC=CC=C1)Br | C16H18BrN5O
